US07335660B2
To a stirred solution of 6-fluoro-3,4-dihydro-1(2H)-naphthalenone (0.50 g, 3 mmol) in dry THF (25 mL) at −78° C. under nitrogen was added lithium bis(trimethylsilyl)amide (1M in THF) (3.6 mL, 3.6 mmol) over 5 min. The solution was stirred for 1 h, then N-phenyltrifluoromethanesulfonimide (1.3 g, 3.6 mmol) was added in one portion and the reaction mixture allowed to warm to room temperature. Stirring was continued for 2 h, then the solvent was removed in vacuo. The residue was dissolved in ethyl acetate and washed with 2M sodium hydroxide, water, and then brine. The organic extracts were dried (MgSO4), and concentrated in vacuo. The resultant red oil was purified by column chromatography on silica, eluting with ethyl acetate/hexane (1:9), to yield 6-fluoro-3,4-dihydro-1-naphthalenyl trifluoromethane sulfonate as a colourless oil.

reactant | 6-fluoro-3,4-dihydro-1(2H)-naphthalenone | 3 mmol, 0.50 g | FC=1C=C2CCCC(C2=CC1)=O | C10H9FO
reactant | lithium bis(trimethylsilyl)amide | 3.6 mmol, 1M, 3.6 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | N-phenyltrifluoromethanesulfonimide | 3.6 mmol, 1.3 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 6-fluoro-3,4-dihydro-1-naphthalenyl trifluoromethane sulfonate | FC(S(=O)(=O)OC1=CCCC2=CC(=CC=C12)F)(F)F | C11H8F4O3S
